Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
admitted for repeat cesarean section
 
Major Surgical or Invasive Procedure:
Repeat low transverse cesarean section,
___ skin incision, care uterine incision.
 
History of Present Illness:
presents at 40.6 wks for repeat cesarean section
 
Past Medical History:
# Dating
EDC: ___ by LMP of ___ tri US 

# Prenatal labs/ genetic screening 
- O+/ab neg, HBsAG neg, HCV neg, HIV neg, RPR NR, RI, Varicella
___
- CF neg
- quad low risk (NTD ___, T21 ___, T 18 ___, declined
amnio
- FFS wnl, s=d, post placenta w/o evid of previa
- GLT 79, 149, 98 -> negative
- GBS negative
.
# Hypothyroidism, +TPO ab
- Levoxyl 25mg -> 50mg (___)
- TSH 2.8 ___ 2.8 (___)
- TPO ab 46 (elevated)
- ___ (44%) -> ___ (40%)
 
#Hx of anemia
- continue with prenatal vitamin with iron
- hct 32.5 at 25 weeks 
- iron studies, Hgb electrophoresis ___ suggest Fe def. anemia

# General
- health proxy form and consent returned; ___ (husband)
-> on L&D
- s/p flu shot

PMH: nil
PSH: LTCS

 
Social History:
lives w husband and child, no T/E/D
 
Physical Exam:
98.4   99   20   128/80
NAD
RRR
CTAB
abd, soft, gravid, NT, well-healed prior Pfann scar, EFW 7.5#
ext NT b/l

CBC, U/A pending

___ yo G2P1 @ 40w6d here for scheduled repeat c/section.

# Postpartum:
- + pedi (Children's)/ + carseat/ breast/ no circ/ OCP's @ 6wk 
PP
 
Pertinent Results:
___ 10:30AM   WBC-11.6* RBC-4.22 HGB-11.7* HCT-34.7* 
MCV-82# MCH-27.8# MCHC-33.8 RDW-14.3
___ 10:30AM   PLT COUNT-367
___ 10:30AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 10:30AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 10:30AM URINE  RBC-2 WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-5
___ 10:30AM URINE  MUCOUS-RARE
 
Brief Hospital Course:
admitted for repeat cesarean section

findings at surgery:
1. Viable male infant, weight 3490 grams, Apgars 9 and 9,
    delivered from the vertex presentation.
2. Meconium-stained amniotic fluid.
3. Apparently intact placenta with 3-vessel cord, marginal
    insertion of cord.
4. Adhesions between the anterior abdominal wall and the
    anterior surface of the uterus.
5. Tubes and ovaries could not be visualized secondary to
    adhesions.

uncomplicated postpartum course
 
Medications on Admission:
LEVOTHYROXINE [LEVOTHROID] - 50 mcg Tablet - 1 Tablet(s) by 
mouth
once a day
 
Medications - OTC
FERROUS SULFATE - 325 mg (65 mg iron) Tablet - 1 Tablet(s) by
mouth daily
PNV COMB 46-IRON CB-FA-DHA [PRENATAL PLUS DHA] - 7 mg-400 
mcg-100
mg Tablet - 1 Tablet(s) by mouth twice a day
 
Discharge Medications:
1. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for Constipation.
Disp:*60 Capsule(s)* Refills:*2*
2. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for Pain.
Disp:*50 Tablet(s)* Refills:*1*
3. oxycodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q3H (every 3 hours) as needed for Pain.
Disp:*45 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pregnancy, delivered

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Nothing in the vagina for 6 weeks (No sex, douching, tampons)
No heavy lifting for 6 weeks
No driving while taking percocet 
Please call if you develop shortness of breath, dizziness, 
palpitations, fever of 101 or above, abdominal pain, increased 
redness or drainage from your incision, nausea/vomiting, heavy 
vaginal bleeding, or any other concerns.

Warning signs:
Refer to OB discharge packet
Feelings of anxiety, fear, or panic that last all day, 
persistent sadness, thoughts of harming self or baby.
Passing clots larger than a fist
Heavy vaginal bleeding
Fever greater than 101
Foul smelling blood
Pain not adequately relieved with medication
Nausea/vomiting unable to keep down food/fluids
Shortness of breath, dizziness, chest pain, palpitations
 
Followup Instructions:
___